US05665719
Step 2: Synthesis of Ethyl 2-N-(1-benzyl-4-piperidyl)aminophenylmercapto acetate
Ethyl (2-aminophenyl)mercaptoacetate (322 mg, 1.52 mmole), N-tert-butyloxycarbonylpiperidin-4-one (456 mg, 2.29 mmole), acetic acid (478 ml, 8.36 mmole), and sodium triacetoxyborohydride (966 mg, 4.56 mmole) were combined in 10 ml of dichloroethane at room temperature, protected from moisture and stirred overnight. Saturated sodium bicarbonate solution was added and the reaction mixture was extracted with ethyl acetate. The combined extracts were washed with sodium bicarbonate solution and brine, then dried and concentrated. The crude product was chromatographed on silica gel (ethyl acetate-hexane elution, 1:3 v/v) to give 210 mg of the title compound along with 99 mg of 2H-1,4-benzothiazin-3(4H)-one.

reactant | Ethyl (2-aminophenyl)mercaptoacetate | 1.52 mmole, 322 mg | NC1=C(C=CC=C1)SCC(=O)OCC | C10H13NO2S
reactant | N-tert-butyloxycarbonylpiperidin-4-one | 2.29 mmole, 456 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | acetic acid | 8.36 mmole, 478 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 4.56 mmole, 966 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | 2H-1,4-benzothiazin-3(4H)-one | 99 mg | S1CC(NC2=C1C=CC=C2)=O | C8H7NOS
